US08076516B2
A solution of DIBAL-H in heptane is added under an inert atmosphere to a cooled (−78° C.) solution of 2-(3-bromophenyl)-1,3-dioxolane in hexanes. The reaction mixture is stirred until no starting material is seen by TLC. Aqueous HCl (1N) is added to the reaction mixture while warming to room temperature. The product is extracted with EtOAc. Combined organic layers are dried over anhydrous MgSO4, and concentrated under reduced pressure to give 2-(3-bromobenzyloxy)ethanol.

reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | 2-(3-bromophenyl)-1,3-dioxolane | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | HCl | 1N | Cl | ClH
solvent | heptane | CCCCCCC | C7H16
product | 2-(3-bromobenzyloxy)ethanol | BrC=1C=C(COCCO)C=CC1 | C9H11BrO2
